US04100292
A mixture consisting of 8 gm (0.032 mol) of 2-[(2-fluoro-6-trifluoromethyl-phenyl)-imino]-imidazolidine, 4.6 gm (105% of the stoichiometrically required amount), 5 cc of trimethylamine acid 25 ml of absolute toluene was heated at 120° C for 18 hours in a closed tube. After cooling, the liquid phase was decanted, the solid residue was dissolved in about 150 cc of 1N hydrochloric acid, the solution was extracted several times with ether, and the ethereal extracts were discarded. The acidic aqueous phase and fractionally extracted with ether at stepwisely increasing pH-values (alkalization with dilute sodium hydroxide). The thin-layer chromatographically uniform fractions were combined, dried over Drierite (calcium sulfate) and evaporated to dryness in vacuo. The residue was caused to crystallize by stirring it with petroleum ether, the mixture was suction-filtered, and the filter cake was dried, yielding 5.7 gm (58.4% of theory) of 2-[N-(cyclopropyl-methyl)-N-(2-fluoro-6-trifluoromethyl-phenyl)-amino]-2-imidazoline, m.p. 126°-127° C.

reactant | 2-[(2-fluoro-6-trifluoromethyl-phenyl)-imino]-imidazolidine | 0.032 mol, 8 gm | FC1=C(C(=CC=C1)C(F)(F)F)N=C1NCCN1 | C10H9F4N3
reactant | trimethylamine | 5 cc | CN(C)C | C3H9N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[N-(cyclopropyl-methyl)-N-(2-fluoro-6-trifluoromethyl-phenyl)-amino]-2-imidazoline | 5.7 gm, 58.4% | C1(CC1)CN(C1=C(C=CC=C1C(F)(F)F)F)C=1NCCN1 | C14H15F4N3
